data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]OC(=O)C(C)C(C1=CC=CC=C1)O.C1C([N-:10]C(=O)O1)CC2=CC=CC=C2.[Li+].O>>[H:20][N:10]1C(COC1=O)CC2=CC=CC=C2.CC(C(C1=CC=CC=C1)O)C(=O)O[O-:21].[Li+].O 10=20;20,21=21
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C#CC4=CC(=CC=C4)F.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC(=C1)F)C#C[CH2:20][Br:10].C(Br)(Br)Br 10=20;20,21=21,22
C[C:20](CC=C)([C:11](C)([CH2:10]C=C)[OH:12])[OH2+:21].C(=O)[O-]>>C[C:11](=[OH+:12])[C:20](C)(CC=C)[CH2:10]C=C.[OH2:21].C(=O)[O-] 10,11=10,20;20,21=21;12=11
CC(=CC[C:20](=[O:21])CCC1=CC=CC=C1)[NH2:10].CO.N.O>>CC1=CC[C:20]([NH2+:10]1)(CCC2=CC=CC=C2)[O-:21].CO.N.O 10=20;20,21=21
[H:20][O:21]C1(CC2C=CC1C2(OC)OC)C3=CCC(C3)O[Si](C)(C)C(C)(C)C.[H:10][Na:11]>>CC(C)(C)[Si](C)(C)OC1CC=C(C1)C2(CC3C=CC2C3(OC)OC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O+:21]=C(C(C)Br)OC.[Br-:10]>>[H:20][Br:10].CC(C(=[O:21])OC)Br 10=20;20,21=21
[H:20][OH+:21]CC.CCOC(CC1=CC(=CC(=C1)F)F)(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(CC1=CC(=CC(=C1)F)F)(O)OCC.CC[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
CCC[O+:11](C)[Na:10]>>CCC[O:11]C.[Na+:10] 10,11=11
[CH2:20]=[OH+:21].[F-:10]>>[CH2:20]([OH:21])[F:10] 10=20;20,21=21
C[C:11]([C:10]1=CC=CC=C1)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>C[C:11](=[OH+:12])[CH:20]([C:10]1=CC=CC=C1)C2=CC=C(C=C2)C3CCCCC3.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(CC([O+:23]=[C:22]1C(F)(F)F)(C)O)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CC1=CC=CC=C1>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)[C:21]1=[C:22]([O:23]C(C1)(C)O)C(F)(F)F.CC1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C[CH:10]=[C:11](C)[OH:12]>>[H:20][CH:10](C)[C:11](=[OH+:12])C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC(=[O+:11][Si-:10](C)(C)(C)OS(=O)(=O)C)O>>CC(=[O:11])O.C[Si:10](C)(C)OS(=O)(=O)C 10,11=11
C[S:10](=O)C.[CH3:20][I:21]>>C[S+:10](=O)(C)[CH3:20].[I-:21] 10=20;20,21=21
CCCCC[C:20](NC(CO)C(C=CC1=CC=CS1)O)([O-:10])[Cl:21].CC(=O)O.[Na+]>>CCCCC[C:20](=[O:10])NC(CO)C(C=CC1=CC=CS1)O.[Cl-:21].CC(=O)O.[Na+] 10=20;20,21=21
CCC1CC[CH:10](CCC(C(CC1CCC2CCCCO2)CC(C)CC)CC3CCCO3)[O:11]S(=O)(=O)C4=CC=C(C=C4)C.CC(=O)O>>CCC1CC[CH+:10]CCC(C(CC1CCC2CCCCO2)CC(C)CC)CC3CCCO3.CC1=CC=C(C=C1)S(=O)(=O)[O-:11].CC(=O)O 10,11=11
[H:20][O:21]C(=O)C.C1=CC(=CC(=C1)C(F)(F)F)[NH2+]C2(C3=C(C=CC=C3C(F)(F)F)NC2=O)[O-:10]>>[H:20][O:10]C1(C2=C(C=CC=C2C(F)(F)F)NC1=O)[NH2+]C3=CC(=CC=C3)C(F)(F)F.CC(=O)[O-:21] 10=20;20,21=21
[CH:11](=[CH:10]Br)[O-:12].[Br:20][Br:21]>>[Br-:21].[CH:11](=[O:12])[CH:10](Br)[Br:20] 10,11=10,20;20,21=21;12=11
CCCC1CCC([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C>>CCCC1CCC2[CH:20](C1)[O+:10]=C(O2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC(C)C(=[O:10])C>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C(C)C(C)C 10=20,
[H:20][OH2+:21].CC=CCCC[O-:10]>>[H:20][O:10]CCCC=CC.[OH2:21] 10=20;20,21=21
CCCC[OH:10].C1=CC(=CC=C1[C:20](=[OH+:21])O)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCC[OH+:10][C:20](C1=CC=C(C=C1)[N+](=O)[O-])(O)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC(=O)OC(C1=C(C=CC=C1[O-:10])OC)C([C:20](=[O:21])OC(=O)C)NC(=O)C2=CC=CC=C2.CC(=O)[O-].C(=O)(O)O[K].[K+]>>CC(=O)OC1C([C:20]([O:10]C2=CC=CC(=C12)OC)([O-:21])OC(=O)C)NC(=O)C3=CC=CC=C3.CC(=O)[O-].C(=O)(O)O[K].[K+] 10=20;20,21=21
C=CC[CH2:20][OH2+:21].[Br-:10]>>C=CC[CH2:20][Br:10].[OH2:21] 10=20;20,21=21
CC1(OC(C(O1)C([CH:20]([O:21]C(=O)C(F)(F)F)[S:10]C)OCC2=CC=CC=C2)C(C(O)SC)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O.O>>CC1(OC(C(O1)C(C(O)SC)OCC2=CC=CC=C2)C([CH:20]=[S+:10]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O.O 10=20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[O:23].CC[O-:10]>>[H:20][O:10]CC.C1CC[C:22](=[CH:21]C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])C(C)C.CC[O-:10]>>[H:20][O:10]CC.CC(C)[C:22](=[CH:21]C1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
CC1=C(C(=C([N+:11](=C1C)[Si-:10](C)(C)(C)OS(=O)(=O)C(F)(F)F)N(C)S(=O)(=O)C)C)N(C)S(=O)(=O)C>>CC1=C(C(=C([N:11]=C1C)N(C)S(=O)(=O)C)C)N(C)S(=O)(=O)C.C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F 10,11=11
C1=CC=C(C=C1)[C:20](=[O:21])OC2=CC=CC=C2.[OH-:10]>>C1=CC=C(C=C1)[C:20]([OH:10])([O-:21])OC2=CC=CC=C2 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])[OH:12]>>[H:20][CH2:10][C:11](=[OH+:12])C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
COC(=O)[C-:10]([CH:20](CC1=CC=CC=C1)[NH+:21]2CCCCC2)C(=O)O.CC(=O)[O-].[OH3+]>>COC(=O)[C:10](=[CH:20]CC1=CC=CC=C1)C(=O)O.C1CC[NH:21]CC1.CC(=O)[O-].[OH3+] 10=20;20,21=21
[B-]([O+:21]=[C:20](CC(=O)OCC)CC(=O)OCC)(F)(F)F.C(CO)[OH:10].CCOCC>>[B-]([O:21][C:20](CC(=O)OCC)(CC(=O)OCC)[OH+:10]CCO)(F)(F)F.CCOCC 10=20;20,21=21
[H:20][O+:21]1CC(C2C1(C(C(=O)O2)C(C=CC(=O)C)O)O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C=CC(C1C(=O)OC2C1([O:21]CC2O)O)O 10=20;20,21=21
